US06235787B1
(E)-2(R)-[1(S)-(Hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methyl-2′-(4-nitrobenzyl)valerohydrazide
The (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methyl-2′-(4-nitrobenzyl)valerohydrazide used as the starting material was prepared in an analogous manner to that described in Example 15, part (iii), starting from (E)-(2R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide by reaction with 4-nitrobenzyl bromide.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methyl-2′-(4-nitrobenzyl)valerohydrazide | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(CC1=CC=C(C=C1)[N+](=O)[O-])S(=O)(=O)C)CC(C)C | C30H40N4O8S
reactant | (E)-(2R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNS(=O)(=O)C)CC(C)C | C23H35N3O6S
reactant | 4-nitrobenzyl bromide | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
product | (E)-2(R)-[1(S)-(Hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methyl-2′-(4-nitrobenzyl)valerohydrazide | ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(CC1=CC=C(C=C1)[N+](=O)[O-])S(=O)(=O)C)CC(C)C | C25H32N4O7S
